US08530460B2
1-(4-(Cyclopropylmethoxy)phenyl)azetidin-3-ol
6.50 g (26.0 mmol) 3-(tert-butyldimethylsilyloxy)azetidine, 7.13 g (26.0 mmol) of 1-(cyclopropylmethoxy)-4-iodobenzene (WO2012/028676), 10.0 g (104 mmol) NaOtBu and 1.54 g (2.08 mmol) chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)(2-(2-aminoethyl)-phenyl)-palladium (II) are added to 65 mL dioxane and stirred at 75° C. for 2.5 h under inert gas atmosphere. Water is added and the resulting mixture is extracted with EtOAc. The org. layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo. The resulting crude product is purified by HPLC (ACN/H2O/NH3).

reactant | 3-(tert-butyldimethylsilyloxy)azetidine | 26.0 mmol, 6.50 g | [Si](C)(C)(C(C)(C)C)OC1CNC1 | C9H21NOSi
reactant | 1-(cyclopropylmethoxy)-4-iodobenzene | 26.0 mmol, 7.13 g | C1(CC1)COC1=CC=C(C=C1)I | C10H11IO
reactant | NaOtBu | 104 mmol, 10.0 g | CC(C)(C)[O-].[Na+]
reactant | dioxane | 65 mL | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 1-(4-(Cyclopropylmethoxy)phenyl)azetidin-3-ol | C1(CC1)COC1=CC=C(C=C1)N1CC(C1)O | C13H17NO2
